US07989657B2
To 2-amino-benzoic acid methyl ester (3.1 g) in dichloromethane (31 mL) was slowly added 4-bromo-3-methyl-benzoyl chloride [21900-25-4] (4.8 g) and triethylamine (3.1 mL). The reaction mixture was then stirred at room temperature for 1 hour. After such time, the reaction mixture was further diluted with dichloromethane (50 mL) and washed with water. The combined aqueous phase was further extracted with dichloromethane. All combined organic phases were then dried over sodium sulfate and concentrated in vacuo. The residue was then recrystallised from ethanol to give 2-(4-bromo-3-methyl-benzoylamino)-benzoic acid methyl ester (6.14 g) as white crystals, m.p.=123° C. MS (m/e): 348.3 (M+H+, 100%).

reactant | 2-amino-benzoic acid methyl ester | 3.1 g | COC(C1=C(C=CC=C1)N)=O | C8H9NO2
reactant | 4-bromo-3-methyl-benzoyl chloride | 4.8 g | BrC1=C(C=C(C(=O)Cl)C=C1)C | C8H6BrClO
reactant | triethylamine | 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 31 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(4-bromo-3-methyl-benzoylamino)-benzoic acid methyl ester | 6.14 g | COC(C1=C(C=CC=C1)NC(C1=CC(=C(C=C1)Br)C)=O)=O | C16H14BrNO3
